US04206309
1-Methyl-3-(2-vinyloxyethyl)-hydantoin
A mixture of 82.6 g (0.72 mol) of 1-methylhydantoin, 50.7 g (0.37 mol) of anhydrous potassium carbonate, 89.6 g (0.84 mol) of 2-chloroethyl vinyl ether, 700 ml of dimethylformamide and 100 ml of toluene is reacted for 2 hours and 30 minutes at 130°-138° C., whilst removing the water of reaction. The mixture is then worked up as described in Example 1, and 128.5 g of a clear, reddish brown, viscous crude product (96.9% of theory) are obtained. The crude product is distilled (boiling point 133° C.-134° C./0.2 mm Hg) and 108.5 g (81.8% of theory) of a colourless, viscous distillate are obtained; this crystallises and melts at 54°-56° C.

reactant | 1-methylhydantoin | 0.72 mol, 82.6 g | CN1C(=O)NC(=O)C1 | C4H6N2O2
reactant | potassium carbonate | 0.37 mol, 50.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chloroethyl vinyl ether | 0.84 mol, 89.6 g | C(=C)OCCCl | C4H7ClO
reactant | dimethylformamide | 700 ml | CN(C=O)C | C3H7NO
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 1-Methyl-3-(2-vinyloxyethyl)-hydantoin | CN1C(=O)N(C(=O)C1)CCOC=C | C8H12N2O3
